US06881736B1
f) 2-Methyl-8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-1,8-naphthyridine
To a solution of 2-methyl-5,6,7,8-tetrahydro-1,8-naphthyridine (23.32 g, 157 mmole) and di-tert-butyl dicarbonate (44.74 g, 205 mmole) in dry THF (750 mL) at 0° C. was added LiHMDS (1.0 M solution in THF, 205 mL, 205 mmole) dropwise. 30 nin after the addition was complete, the mixture was quenched with saturated NH4Cl (500 mL) and extracted with EtOAc (3×500 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. Flash column chromatography on silica gel (40% EtOAc/hexanes) gave the title compound (32.3 g, 83%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) 57.27 (d. J=7.6 Hz, 1 H), 6.81 (d, J=7.6 Hz, 1 H), 3.69-3.79 (m, 2 H). 2.65-2.75 (m, 2H), 2.48 (s, 3 H), 1.83-1.98 (m. 2 H). 1.52 (s, 9 H): MS (ES) m/e 249 (M+H)+.

reactant | 2-methyl-5,6,7,8-tetrahydro-1,8-naphthyridine | 157 mmole, 23.32 g | CC1=NC=2NCCCC2C=C1 | C9H12N2
reactant | di-tert-butyl dicarbonate | 205 mmole, 44.74 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | LiHMDS | 205 mmole, 1.0 M, 205 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 2-Methyl-8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-1,8-naphthyridine | 32.3 g, 83% | CC1=NC=2N(CCCC2C=C1)C(=O)OC(C)(C)C | C14H20N2O2
